US08748624B2
STEP D: 3-(5-(2-(((4′-chloro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoic acid
Neat TFA (0.04 mL, 0.55 mmol) was added to a DCM solution (1 mL) of tert-butyl 3-(5-(2-(((4′-chloro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoate (34 mg, 0.06 mmol). After 16 h the resulting mixture was concentrated in vacuo, dissolved in DCM and 1N HCl in ether was added. The resulting solution was concentrated in vacuo and the DCM/HCl process was repeated 2×. The resulting solid was characterized as the corresponding HCl salt of the title compound.

reactant | TFA | 0.55 mmol, 0.04 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 3-(5-(2-(((4′-chloro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoate | 0.06 mmol, 34 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NCC1=C(C=CC=C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OC(C)(C)C | C32H32ClN3O3
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-(5-(2-(((4′-chloro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoic acid | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NCC1=C(C=CC=C1)C=1C=CC(=NC1)C(=O)NCCC(=O)O | C28H24ClN3O3
